US04294843
2-Aminobenzenethiol (3.75 g, 0.03 mol) was added to a solution of sodium (0,06 mol, 1.38 g) in ethanol (50 ml). Solid chloroacetamidoxime hydrochloride (4.35 g, 0.03 mol) was added in one portion. After stirring for 10 minutes the reaction mixture was filtered and the filtrate evaporated to dryness to give the crude product which was re-crystallised from iso-propanol to give 2-(2-aminophenylthio) acetamidoxime, m.p. 80°.

reactant | 2-Aminobenzenethiol | 0.03 mol, 3.75 g | NC1=C(C=CC=C1)S | C6H7NS
reactant | sodium | 0,06 mol, 1.38 g | [Na] | Na
reactant | chloroacetamidoxime hydrochloride | 0.03 mol, 4.35 g | Cl.ClCC(N)=NO
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-(2-aminophenylthio) acetamidoxime | NC1=C(C=CC=C1)SCC(N)=NO | C8H11N3OS
